US07192982B2
3-{4-[3-(Dibenzofuran-2-yloxy)-propoxy]-phenyl}-2-methoxy-propionic acid ethyl ester
A mixture of 2-(3-Bromo-propoxy)-dibenzofuran and (2S)-3-(4-hydroxy-phenyl)-2-methoxy propionic acid ethyl ester were allowed to react under the Standard Procedure I to give the title compound.

reactant | 2-(3-Bromo-propoxy)-dibenzofuran | BrCCCOC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C15H13BrO2
reactant | (2S)-3-(4-hydroxy-phenyl)-2-methoxy propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OC)=O | C12H16O4
product | 3-{4-[3-(Dibenzofuran-2-yloxy)-propoxy]-phenyl}-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCCOC1=CC2=C(OC3=C2C=CC=C3)C=C1)OC)=O | C27H28O6
